US04212766
10.91 g Bi(NO3)3.5H2O was dissolved in about 40 ml. of a 10% aqueous HNO3 solution. 5.96 g of (NH4)6Mo7O24.4H2O was dissolved in about 75 ml. of H2O with heating. The bismuth nitrate solution was added with constant stirring to the ammonium heptamolybdate solution. The pH of the mixture was then adjusted to 2.5 to 3 by the dropwise addition of reagent grade NH4OH. The mixture was then stirred for 1 hour to produce a bismuth molybdate slurry.

reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | (NH4)6Mo7O24.4H2O | 5.96 g | N.N.N.N.N.N.O.O.O.O.O[Mo](=O)(=O)O.O[Mo](=O)(=O)O.O[Mo](=O)(=O)O.O=[Mo](=O)=O.O=[Mo](=O)=O.O=[Mo](=O)=O.O=[Mo](=O)=O
reactant | bismuth nitrate | [N+](=O)([O-])[O-].[Bi+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | ammonium heptamolybdate | N.N.N.N.N.N.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.[Mo].[Mo].[Mo].[Mo].[Mo].[Mo].[Mo]
reactant | NH4OH | [NH4+].[OH-]
solvent | H2O | O | H2O
product | bismuth molybdate | [O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Mo].[Mo].[Bi+3].[Bi+3] | InChI=1S/2Bi.2Mo.9O/q2*+3;;;9*-2
